US07101899B1
2-(2-fluoro-4-pyridyl)-1-(3-methylphenyl)ethanone
A solution of diisopropylamine (44 mL, 0.31 mol) in anhydrous tetrahydrofuran (300 mL) was cooled to −78° C. under argon atmosphere and a 1.6M solution of n-butyllithium in hexane (190 mL, 0.31 mol) was added dropwise to the solution. After complete addition, the mixture was stirred for 10 minutes and subsequently a solution of 2-fluoro-4-methylpyridine (34.5 g, 0.31 mol) in anhydrous tetrahydrofuran (30 mL) was added. The reaction mixture was stirred at −10° C. for 30 minutes. The reaction solution was cooled to −78° C. and a solution of N-(3-methylbenzoyl)propyleneimine (52 g, 0.30 mol) in anhydrous tetrahydrofuran (30 mL) was added dropwise. After complete addition, the mixture was stirred at room temperature for 2 hours. Water (100 mL) was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with water, dried and the solvent was distilled off. The residue was recrystallized from isopropyl ether to obtain 35 g (yield 52%) of the title compound.

reactant | diisopropylamine | 0.31 mol, 44 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 0.31 mol, 190 mL | CCCCCC | C6H14
reactant | 2-fluoro-4-methylpyridine | 0.31 mol, 34.5 g | FC1=NC=CC(=C1)C | C6H6FN
reactant | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | Water | 100 mL | O | H2O
product | 2-(2-fluoro-4-pyridyl)-1-(3-methylphenyl)ethanone | 35 g, yield 52% | FC1=NC=CC(=C1)CC(=O)C1=CC(=CC=C1)C | C14H12FNO
